US08604062B2
To a suspension of sodium hydride (55% dispersion in mineral oil, 852 mg, 20 mmol) in THF (27 mL) was added a solution of [3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methanol (3.68 g, 18 mmol) in THF (54 mL) at 0° C. and the reaction mixture warmed to room temperature over 30 min. Then a solution of methyl 6-chloronicotinate (3.35 g, 20 mmol) in THF (1.5 mL) was added dropwise at 0° C. and the reaction mixture was stirred at room temperature overnight. The reaction mixture was then poured into aqueous sodium chloride (saturated) and the mixture was extracted with ethyl acetate. The combined organic layers were then washed with water and brine and then dried over sodium sulfate, filtered and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=7:3) afforded 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (4.1 g, 68%) which was obtained as a white solid. To a solution of 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (1.1 mmol) in THF (5 mL) was added a solution of lithium hydroxide monohydrate (94 mg, 2.2 mmol) in water (5 mL) and methanol (1 mL) added and the resulting mixture stirred at room temperature overnight. The mixture was acidified to pH 4 with HCl (25%, 3 drops) and methanol (2 drops) added. A gum began to form and the mixture was cooled at 0° C. for 1.5 h and then the aqueous layer decanted off. Trituration with diethylether and hexane afforded the title compound (95%) which was obtained as an off white solid. MS: m/e=327.4 [M−H]−.

reactant | sodium hydride | 20 mmol, 852 mg | [H-].[Na+]
reactant | [3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methanol | 18 mmol, 3.68 g | FC=1C=C(C=CC1)C1=NOC(=C1CO)C | C11H10FNO2
reactant | methyl 6-chloronicotinate | 20 mmol, 3.35 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | THF | 27 mL | C1CCOC1 | C4H8O
solvent | THF | 54 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 4.1 g, 68% | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C18H15FN2O4
